US07872141B2
Preparation of 1-(4-amino-3-fluoro-phenyl)-1H-pyridin-2-one (compound 11)
The process described in patent US2005/0215599, i.e. copper catalyzed N-arylation of 2-hydroxypyridine with 4-bromo-2-fluoroaniline suffers from a major safety issue.

reactant | 2-hydroxypyridine | OC1=NC=CC=C1 | C5H5NO
reactant | 4-bromo-2-fluoroaniline | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
catalyst | copper | [Cu] | Cu
product | 1-(4-amino-3-fluoro-phenyl)-1H-pyridin-2-one | NC1=C(C=C(C=C1)N1C(C=CC=C1)=O)F | C11H9FN2O
